US06498159B1
4-(3-Chloro-4-methoxybenzyl)amino-6-cyano-1-(4-methoxyphenyl)phthalazine Hydrochloride
423 mg of tetrakis(triphenylphosphine)palladium (0) was added to a mixture of 1.0 g 1-chloro-4-(3-chloro-4-methoxybenzyl)amino-6-cyanophthalazine, 423 mg 4-methoxyphenylboric acid, 30 ml toluene, 30 ml tetrahydrofuran, and 30 ml of 2 M aqueous sodium carbonate in a nitrogen atmosphere. The mixture was stirred at 80° C. for 2 hr, and further at 10° C. for 15.5 hr. The reaction solution was returned to room temperature and extracted with aqueous ammonium chloride and ethyl acetate. The organic layer was washed with aqueous ammonia, water and brine, and dried over anhydrous sodium sulfate. The solvent was evaporated, and the resulting residue was purified by silica gel column chromatography. The resulting coupled compound was dissolved in ethyl acetate/ethanol, 4 N hydrochloric acid/ethyl acetate solution was added thereto, and the resulting crystals were collected by filtration to give 460 mg of the title compound as a yellow powder.

reactant | 1-chloro-4-(3-chloro-4-methoxybenzyl)amino-6-cyanophthalazine | 1.0 g | ClC1=NN=C(C2=CC(=CC=C12)C#N)NCC1=CC(=C(C=C1)OC)Cl | C17H12Cl2N4O
reactant | 4-methoxyphenylboric acid | 423 mg | COC1=CC=C(C=C1)OB(O)O | C7H9BO4
reactant | toluene | 30 ml | C1(=CC=CC=C1)C | C7H8
reactant | sodium carbonate | 2 M, 30 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis(triphenylphosphine)palladium | 423 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | 4-(3-Chloro-4-methoxybenzyl)amino-6-cyano-1-(4-methoxyphenyl)phthalazine Hydrochloride | 460 mg | Cl.ClC=1C=C(CNC2=NN=C(C3=CC=C(C=C23)C#N)C2=CC=C(C=C2)OC)C=CC1OC | InChI=1S/C24H19ClN4O2.ClH/c1-30-18-7-5-17(6-8-18)23-19-9-3-15(13-26)11-20(19)24(29-28-23)27-14-16-4-10-22(31-2)21(25)12-16;/h3-12H,14H2,1-2H3,(H,27,29);1H
